US06727264B1
N-{3-[1-(6-AMINOHEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure AE and Scheme Y using N-(3-{1-[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl]-4-piperidinyl}phenyl)-2-methylpropanamide and hydrazine hydrate: ESMS m/e: 346.2 (M+H)+.

reactant | N-(3-{1-[6-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)hexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O=C1N(C(C2=CC=CC=C12)=O)CCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C29H37N3O3
reactant | hydrazine hydrate | O.NN
product | N-{3-[1-(6-AMINOHEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
